US08357693B2
A suspension of 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid (100 mg, 0.24 mmol), PyBOP® (125 mg, 0.24 mmol), DIEA (125 μL, 0.24 mmol) in CH2Cl2 (5 mL) stirred at RT for 10-15 minutes. To this solution of activated acid was added 1-methylpiperazine (27 μL, 0.24 mmol) and the reaction mixture was stirred at RT for 1.5 h. Concentrated in vacuo and the crude product was purified using prep HPLC (method 10-35—90 mins) to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone. (32 mg, 0.065 mmol, 27%)

reactant | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | 0.24 mmol, 100 mg | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.24 mmol, 125 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylpiperazine | 0.24 mmol, 27 μL | CN1CCNCC1 | C5H12N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)N2CCN(CC2)C)C=CC1 | C28H27N7O2
